US07786165B2
tert-butyl 3-{4-[({2′,6′-dimethyl-4′-[2-(2-oxopyrrolidin-1-yl)ethoxy]biphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate
To a solution of tert-butyl 3-(4-{({2′,6′-dimethyl-4′-[2-(2-oxopyrrolidin-1-yl)ethoxy]biphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate (0.91 g, 1.23 mmol) and mercaptoacetic acid (0.26 mL, 3.68 mmol) in N,N-dimethylformamide (9 mL) was added lithium hydroxide monohydrate (0.31 g, 7.38 mmol) under stirring at room temperature, and the mixture was stirred at the same temperature for 4 hr. The reaction mixture was concentrated under reduced pressure, and to the residue was added brine. The mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate-=5/1-ethyl acetate) to give the title compound (0.51 g, yield 74%) as a colorless amorphous powder.

reactant | tert-butyl 3-(4-{({2′,6′-dimethyl-4′-[2-(2-oxopyrrolidin-1-yl)ethoxy]biphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate | 1.23 mmol, 0.91 g | CC1=C(C(=CC(=C1)OCCN1C(CCC1)=O)C)C1=CC(=CC=C1)CN(C1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C40H44FN3O8S
reactant | mercaptoacetic acid | 3.68 mmol, 0.26 mL | SCC(=O)O | C2H4O2S
reactant | lithium hydroxide monohydrate | 7.38 mmol, 0.31 g | O.[OH-].[Li+]
solvent | N,N-dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
product | tert-butyl 3-{4-[({2′,6′-dimethyl-4′-[2-(2-oxopyrrolidin-1-yl)ethoxy]biphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate | 0.51 g, yield 74% | CC1=C(C(=CC(=C1)OCCN1C(CCC1)=O)C)C1=CC(=CC=C1)CNC1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)F | C34H41FN2O4
